### PR TITLE
More Keccak circuits

### PR DESCRIPTION
**Pull request by gio54321**

### CODE REVIEW

File: Clean/Types/U64.lean [hunk 1]
```diff
@@ -150,6 +136,93 @@ def decompose_nat_expr (x: ℕ) : U64 (Expression (F p)) :=
...
+  UInt64.ofNatCore x.value (normalized_u64 x h)
+
 
 end U64
+
+namespace U64.AssertNormalized
+
+
+structure Inputs (F : Type) where
+  x: U64 F
```
Comment (mitschabaude) [inline Clean/Types/U64.lean]: can you remove this and just use `U64` as the input type?

File: Clean/Gadgets/Rotation64/Rotation64.lean [hunk 2]
```diff
@@ -1,80 +1,48 @@
...
-  z: U64 F
-
-instance instProvableTypeOutputs : ProvableType Outputs where
-  size := ProvableType.size U64
-  to_elements x := (ProvableType.to_elements x.z)
-  from_elements v :=
-    let ⟨ .mk [z0, z1, z2, z3, z4, z5, z6, z7], _ ⟩ := v
-    ⟨ ⟨ z0, z1, z2, z3, z4, z5, z6, z7 ⟩ ⟩
+@[reducible]
+def Outputs (F : Type) := U64 F
```
Comment (mitschabaude) [inline Clean/Gadgets/Rotation64/Rotation64.lean]: how about using U64 in place of Inputs / Outputs directly?

File: Clean/Gadgets/Keccak/Keccak.lean [hunk 3]
```diff
@@ -0,0 +1,210 @@
...
+
+@[reducible]
+def xor_u64 (a b : ℕ) : ℕ := a ^^^ b
+
+def not_u64 (a : ℕ) : ℕ := a ^^^ 0xffffffffffffffff
+
+def and_u64 (a b : ℕ) : ℕ := a &&& b
+
+def rol_u64 (value : ℕ) (left : Nat) : ℕ:=
+  let right := (64 - left) % 64
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Keccak.lean]: if `left > 64`, `64 - left = 0` and this doesn't behave correctly.
would feel safer to make the input `(left : Fin 64)`

File: Clean/Gadgets/Keccak/Keccak.lean [hunk 4]
```diff
@@ -0,0 +1,210 @@
...
+  rot_right64 value right
+
+
+def theta_c (state : Vector ℕ 25) : Vector ℕ 5 :=
+    #v[
+      xor_u64 (xor_u64 (xor_u64 (xor_u64 (state.get 0) (state.get 1)) (state.get 2)) (state.get 3)) (state.get 4),
+      xor_u64 (xor_u64 (xor_u64 (xor_u64 (state.get 5) (state.get 6)) (state.get 7)) (state.get 8)) (state.get 9),
+      xor_u64 (xor_u64 (xor_u64 (xor_u64 (state.get 10) (state.get 11)) (state.get 12)) (state.get 13)) (state.get 14),
+      xor_u64 (xor_u64 (xor_u64 (xor_u64 (state.get 15) (state.get 16)) (state.get 17)) (state.get 18)) (state.get 19),
+      xor_u64 (xor_u64 (xor_u64 (xor_u64 (state.get 20) (state.get 21)) (state.get 22)) (state.get 23)) (state.get 24)
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Keccak.lean]: nit: this would be more readable with the inline `^^^` operator instead of `xor_u64`

File: Clean/Gadgets/Keccak/Keccak.lean [hunk 5]
```diff
@@ -0,0 +1,210 @@
...
+
+def bits2bytes (x : Nat) : Nat :=
+  (x + 7) / 8
+
+@[reducible]
+def xor_u64 (a b : ℕ) : ℕ := a ^^^ b
+
+def not_u64 (a : ℕ) : ℕ := a ^^^ 0xffffffffffffffff
+
+def and_u64 (a b : ℕ) : ℕ := a &&& b
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Keccak.lean]: using the original inline operators instead of the wrappers defined here would make much of the code in this file more readable!

File: Clean/Gadgets/Keccak/Keccak.lean [hunk 6]
```diff
@@ -0,0 +1,210 @@
+import Mathlib.Tactic.Linarith.Frontend
+import Clean.Types.U64
+import Clean.Gadgets.Rotation64.Theorems
+namespace Clean.Gadgets.Keccak256
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Keccak.lean]: I think this shouldn't be in a `Gadgets` namespace. A better fit would be `Specs.Keccak256`. also, we don't use the `Clean` prefix anywhere else

File: Clean/Gadgets/Keccak/ThetaC.lean [hunk 7]
```diff
@@ -82,110 +78,51 @@ theorem soundness : Soundness (F p) assumptions spec := by
...
+    obtain ⟨ xor00, norm00 ⟩ := h00 (state_norm _) (state_norm _)
+    obtain ⟨ xor01, norm01 ⟩ := h01 norm00 (state_norm _)
+    obtain ⟨ xor02, norm02 ⟩ := h02 norm01 (state_norm _)
+    obtain ⟨ xor0, norm0 ⟩ := h03 norm02 (state_norm _)
+    rw [xor02, xor01, xor00] at xor0
+    clear h00 h01 h02 h03 norm00 norm01 norm02 xor00 xor01 xor02
+
+
+  simp [Clean.Gadgets.Keccak256.theta_c, Clean.Gadgets.Keccak256.xor_u64, spec]
+  simp only [true_and, Fin.isValue, Fin.val_zero, Fin.val_one, Fin.val_two, *]
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/ThetaC.lean]: nit: I think it's cleaner to strive for `simp` to be terminal (for proof robustness)
```suggestion
  simp [Clean.Gadgets.Keccak256.theta_c, Clean.Gadgets.Keccak256.xor_u64, spec, *]
```

File: Clean/Gadgets/Keccak/ThetaC.lean [hunk 8]
```diff
@@ -82,110 +78,51 @@ theorem soundness : Soundness (F p) assumptions spec := by
...
-  rw [s0, s1, s2, s3, s4, s5, s6, s7, s8, s9, s10, s11, s12, s13,
-      s14, s15, s16, s17, s18, s19, s20, s21, s22, s23, s24] at h_holds
-  clear s0 s1 s2 s3 s4 s5 s6 s7 s8 s9 s10 s11 s12 s13 s14 s15 s16 s17
-    s18 s19 s20 s21 s22 s23 s24
+  simp [add_assoc, and_assoc, -Fin.val_zero, -Fin.val_one', -Fin.val_one, -Fin.val_two] at h_holds
+
+  have s (i : Fin 25) : eval env (state_var[i.val]) = state[i.val] := by
+    rw [←h_input, Vector.getElem_map]
 
+  simp only [s] at h_holds
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/ThetaC.lean:81]: nice technique!

File: Clean/Gadgets/Keccak/ThetaC.lean [hunk 9]
```diff
@@ -82,110 +78,51 @@ theorem soundness : Soundness (F p) assumptions spec := by
...
+  repeat
+    first
+    | obtain⟨ h00, h01, h02, h03, h_holds ⟩ := h_holds
+    | obtain⟨ h00, h01, h02, h03 ⟩ := h_holds
+    obtain ⟨ xor00, norm00 ⟩ := h00 (state_norm _) (state_norm _)
+    obtain ⟨ xor01, norm01 ⟩ := h01 norm00 (state_norm _)
+    obtain ⟨ xor02, norm02 ⟩ := h02 norm01 (state_norm _)
+    obtain ⟨ xor0, norm0 ⟩ := h03 norm02 (state_norm _)
+    rw [xor02, xor01, xor00] at xor0
+    clear h00 h01 h02 h03 norm00 norm01 norm02 xor00 xor01 xor02
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/ThetaC.lean]: nice! my only nit is that the `0` prefix in the numbering no longer makes sense :D

File: Clean/Gadgets/ByteDecomposition.lean [hunk 10]
```diff
@@ -0,0 +1,98 @@
+import Clean.Gadgets.Rotation64.Theorems
+import Clean.Utils.Primes
+import Clean.Utils.Field
+
+namespace Gadgets.ByteDecomposition
+variable {p : ℕ} [Fact p.Prime]
+variable [p_large_enough: Fact (p > 512)]
+
+structure Inputs (F : Type) where
+  x: F
```
Comment (mitschabaude) [inline Clean/Gadgets/ByteDecomposition.lean]: remove unnecessary `Input` structure?

File: Clean/Gadgets/ByteDecomposition.lean [hunk 11]
```diff
@@ -0,0 +1,98 @@
...
+          simp only [Fin.is_lt, two_power]
+        linarith [p_large_enough.elim]
+      )
+    else 0
+
+  let high ← witness fun env => FieldUtils.floordiv (env x) (2^offset.val)
+
+  assert_zero (low + high * ((2 : ℕ)^offset.val : F p) - x)
+
+  return ⟨ low, high ⟩
```
Comment (mitschabaude) [inline Clean/Gadgets/ByteDecomposition.lean:44]: I saw that you added the missing constraints here in a follow-up PR 👍🏻

File: Clean/Gadgets/ByteDecomposition.lean [hunk 12]
```diff
@@ -0,0 +1,98 @@
...
+  Decompose a byte into a low and a high part.
+  The low part is the least significant `offset` bits, and the high part is the most significant `8 - offset` bits.
+-/
+def byte_decomposition (offset : Fin 8) (input : Var Inputs (F p)) : Circuit (F p) (Var Outputs (F p)) := do
+  let ⟨x⟩ := input
+  let two_power : ℕ := (2 : ℕ)^offset.val
+
+  let low ← witness fun env =>
+    if offset > 0 then
+      FieldUtils.mod (env x) ⟨two_power, by dsimp only [two_power]; simp⟩ (by
```
Comment (mitschabaude) [inline Clean/Gadgets/ByteDecomposition.lean:30]: This should also work without the case distinction, since by definition `2^0 = 1` and `x % 1 = 0` for all x. Not sure if it'd simplify the proofs.
```lean
example (x : ℕ) : x % 2^0 = 0 := Nat.mod_one x
```

File: Clean/Gadgets/Keccak/KeccakState.lean [hunk 13]
```diff
@@ -0,0 +1,45 @@
...
+
+variable {p : ℕ} [Fact p.Prime]
+variable [p_large_enough: Fact (p > 512)]
+
+@[reducible] def KeccakState := ProvableVector U64 25
+
+
+@[reducible]
+def KeccakState_is_normalized_iff (state : KeccakState (F p)) :
+    (∀ i : Fin 25, state[i].is_normalized) ↔
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/KeccakState.lean]: I kinda hope we won't need this theorem 😂

File: Clean/Gadgets/Keccak/Theta.lean [hunk 14]
```diff
@@ -0,0 +1,94 @@
...
+import Clean.Gadgets.Keccak.Keccak
+import Clean.Gadgets.Keccak.ThetaC
+import Clean.Gadgets.Keccak.ThetaD
+import Clean.Gadgets.Keccak.ThetaXor
+
+namespace Gadgets.Keccak.Theta
+variable {p : ℕ} [Fact p.Prime]
+variable [p_large_enough: Fact (p > 512)]
+
+open FieldUtils (mod_256 floordiv)
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Theta.lean]: I changed the location of these methods, you'll have to merge main and change to
```lean
open ByteUtils (mod_256 floordiv_256)
```

File: Clean/Gadgets/Keccak/Theta.lean [hunk 15]
```diff
@@ -0,0 +1,94 @@
...
+open Xor (xor_u64)
+open Clean.Gadgets.Keccak256
+
+
+def theta (state : Var KeccakState (F p)) : Circuit (F p) (Var KeccakState (F p)) := do
+  let c ← subcircuit Gadgets.Keccak.ThetaC.circuit state
+  let d ← subcircuit Gadgets.Keccak.ThetaD.circuit c
+  return ←subcircuit Gadgets.Keccak.ThetaXor.circuit ⟨state, d⟩
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Theta.lean]: nit: could save a redundant `pure` here?
```suggestion
  subcircuit Gadgets.Keccak.ThetaXor.circuit ⟨state, d⟩
```

File: Clean/Gadgets/Keccak/Theta.lean [hunk 16]
```diff
@@ -0,0 +1,94 @@
...
+
+
+instance elaborated : ElaboratedCircuit (F p) KeccakState (Var KeccakState (F p)) where
+  main := theta
+  local_length _ := 520
+  output _ i0 := #v[
+    var_from_offset U64 (i0 + 320),
+    var_from_offset U64 (i0 + 328),
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Theta.lean:29]: note for later: since we have gadgets operating at the level of entire `KeccakState` now, it'd make sense to keep it as one in our proofs and change this to
```lean
output _ i0 := var_from_offset KeccakState (i0 + 320)
```

for this we'll need to add a theorem about `var_from_offset` + `ProvableVector` first, so don't mind changing it in this PR

File: Clean/Gadgets/Keccak/Theta.lean [hunk 17]
```diff
@@ -0,0 +1,94 @@
...
+  ]
+
+def assumptions (state : KeccakState (F p)) : Prop :=
+  ∀ i : Fin 25, state[i].is_normalized
+
+def spec (state : KeccakState (F p)) (out_state: KeccakState (F p)) : Prop :=
+  let h_norm := ∀ i : Fin 25, out_state[i].is_normalized
+
+  let state_u64 := state.map (fun x => x.value)
+  let out_u64 := out_state.map (fun x => x.value)
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Theta.lean:62]: (possibly for later) it would make sense to define `KeccakState.value` and `KeccakState.is_normalized`

File: Clean/Gadgets/Keccak/Theta.lean (hunk 15 above)
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Theta.lean]: nit: since you're inside the `Gadgets.Keccak` namespace, you could leave out this prefix everywhere, for example here it would read cleaner to write
```suggestion
def theta (state : Var KeccakState (F p)) : Circuit (F p) (Var KeccakState (F p)) := do
  let c ← subcircuit ThetaC.circuit state
  let d ← subcircuit ThetaD.circuit c
  return ←subcircuit ThetaXor.circuit ⟨state, d⟩
```

File: Clean/Gadgets/Keccak/ThetaD.lean [hunk 18]
```diff
@@ -0,0 +1,131 @@
...
+open FieldUtils (mod_256 floordiv)
+open Xor (xor_u64)
+open Clean.Gadgets.Keccak256
+open Gadgets.Rotation64.Theorems (rot_right64)
+
+@[reducible]
+def Inputs := ProvableVector U64 5
+
+@[reducible]
+def Outputs := ProvableVector U64 5
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/ThetaD.lean]: since the vector of 5 U64s is a recurring type, it probably makes sense to define it once, like `KeccakState`

File: Clean/Gadgets/Keccak/ThetaD.lean [hunk 19]
```diff
@@ -0,0 +1,131 @@
...
+  simp only [circuit_norm, subcircuit_norm] at h_holds
+  dsimp only [Xor.assumptions, Xor.spec, Rotation64.assumptions, Rotation64.spec] at h_holds
+  simp [add_assoc, and_assoc, -Fin.val_zero, -Fin.val_one', -Fin.val_one, -Fin.val_two] at h_holds
+
+  have u64_from_offset (i : ℕ) : var_from_offset (F:=(F p)) U64 (i0 + i) = ⟨var ⟨i0 + i⟩, var ⟨i0 + i + 1⟩, var ⟨i0 + i + 2⟩, var ⟨i0 + i + 3⟩, var ⟨i0 + i + 4⟩, var ⟨i0 + i + 5⟩, var ⟨i0 + i + 6⟩, var ⟨i0 + i + 7⟩⟩ := by
+    simp only [var_from_offset, from_vars, from_elements, Vector.natInit, add_zero, Vector.push_mk,
+      Nat.reduceAdd, List.push_toArray, List.nil_append, List.cons_append]
+
+  rw [←u64_from_offset 16, ←u64_from_offset 48, ←u64_from_offset 80, ←u64_from_offset 112, ←u64_from_offset 144] at h_holds
+  clear u64_from_offset
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/ThetaD.lean]: seems like the beginning of the proof here would benefit from defining the output of `Rotation64` in terms of `var_from_offset`?

File: Clean/Gadgets/Keccak/ThetaD.lean [hunk 20]
```diff
@@ -0,0 +1,131 @@
...
+
+  specialize h_rot3 (state_norm 4)
+  specialize h_xor3 (state_norm 2) h_rot3.right
+  rw [h_rot3.left] at h_xor3
+
+  specialize h_rot4 (state_norm 0)
+  specialize h_xor4 (state_norm 3) h_rot4.right
+  rw [h_rot4.left] at h_xor4
+
+  simp [Clean.Gadgets.Keccak256.theta_d, Clean.Gadgets.Keccak256.xor_u64, h_xor0, h_xor1, h_xor2, h_xor3, h_xor4, rol_u64]
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/ThetaD.lean]: nice and efficient proof!

File: Clean/Gadgets/Rotation64/Theorems.lean
Comment (mitschabaude) [inline Clean/Gadgets/Rotation64/Theorems.lean:1]: just looked at these proofs the first time, I appreciate the strength to pull through with this :D

Wonder how hard it would be to map a U64 to a `Vector (F p) 8` and do the rotation more generically 🤔 
(not relevant for this PR review)

File: Clean/Gadgets/Rotation64/Rotation64Bytes.lean [hunk 21]
```diff
@@ -1,39 +1,26 @@
...
 namespace Gadgets.Rotation64Bytes
 variable {p : ℕ} [Fact p.Prime]
 
 open Gadgets.Rotation64.Theorems (rot_right64)
+open Gadgets.Rotation64.Theorems (soundnessCase1 soundnessCase2 soundnessCase3 soundnessCase4 soundnessCase5 soundnessCase6 soundnessCase7)
 
-structure Inputs (F : Type) where
-  x: U64 F
+@[reducible]
+def Inputs (F : Type) :=  U64 F
```
Comment (mitschabaude) [inline Clean/Gadgets/Rotation64/Rotation64Bytes.lean:12]: use `U64` directly?

File: Clean/Gadgets/Xor/ByteXorTable.lean [hunk 22]
```diff
@@ -57,7 +57,7 @@ def ByteXorTable.completeness (x y z: F p) :
   use concat_two_bytes ⟨ x.val, hx ⟩ ⟨ y.val, hy ⟩
   simp only [Vector.eq_mk, Array.mk.injEq, List.cons.injEq, and_true]
   rw [concat_split]
-  simp [from_byte_eq, true_and]
+  simp [from_byte_eq, true_and, from_byte, FieldUtils.nat_to_field_of_val_eq_iff]
```
Comment (mitschabaude) [inline Clean/Gadgets/Xor/ByteXorTable.lean:59]: oh, was this broken on main?

File: Clean/Types/U64.lean [hunk 23]
```diff
@@ -150,6 +136,93 @@ def decompose_nat_expr (x: ℕ) : U64 (Expression (F p)) :=
...
+    rw [show x0_var.eval env = x0 by injections h_inputs]
+    rw [show x1_var.eval env = x1 by injections h_inputs]
+    rw [show x2_var.eval env = x2 by injections h_inputs]
+    rw [show x3_var.eval env = x3 by injections h_inputs]
+    rw [show x4_var.eval env = x4 by injections h_inputs]
+    rw [show x5_var.eval env = x5 by injections h_inputs]
+    rw [show x6_var.eval env = x6 by injections h_inputs]
+    rw [show x7_var.eval env = x7 by injections h_inputs]
+
+    tauto
```
Comment (mitschabaude) [inline Clean/Types/U64.lean]: it's funny that lean allows this, because `h_inputs` doesn't exist :D

anyway, this is a bit more elegant:
```suggestion
    simp_all [circuit_norm, eval]
```

File: Clean/Types/U64.lean [hunk 24]
```diff
@@ -150,6 +136,93 @@ def decompose_nat_expr (x: ℕ) : U64 (Expression (F p)) :=
...
+    repeat rw [Gadgets.ByteTable.equiv]
+    rw [show x0_var.eval env = x0 by injections h_inputs]
+    rw [show x1_var.eval env = x1 by injections h_inputs]
+    rw [show x2_var.eval env = x2 by injections h_inputs]
+    rw [show x3_var.eval env = x3 by injections h_inputs]
+    rw [show x4_var.eval env = x4 by injections h_inputs]
+    rw [show x5_var.eval env = x5 by injections h_inputs]
+    rw [show x6_var.eval env = x6 by injections h_inputs]
+    rw [show x7_var.eval env = x7 by injections h_inputs]
+    tauto
```
Comment (mitschabaude) [inline Clean/Types/U64.lean]:
```suggestion
    simp_all [circuit_norm, eval]
```

File: Clean/Gadgets/ByteDecomposition.lean (hunk 12 above)
Comment (gio54321) [reply Clean/Gadgets/ByteDecomposition.lean:30]: Oh you are right! I'm gonna fix this in the other PR

File: Clean/Gadgets/Keccak/Theta.lean (hunk 16 above)
Comment (gio54321) [reply Clean/Gadgets/Keccak/Theta.lean:29]: Yes, I thought about that, that would simplify a lot also the proof for theta
For these simple gadgets, the proofs should be almost trivial

File: Clean/Gadgets/Rotation64/Theorems.lean
Comment (gio54321) [reply Clean/Gadgets/Rotation64/Theorems.lean:1]: That was a lot of effort from @marcobesier side!
We thought about doing it generically, but couldn't figure out the right strategy.
Maybe the key is defining the isomorphism between normalized U64 and 64-bit unsigned integers

File: Clean/Gadgets/Keccak/Theta.lean (hunk 16 above)
Comment (mitschabaude) [reply Clean/Gadgets/Keccak/Theta.lean:29]: I started working on this direction here: https://github.com/Verified-zkEVM/clean/pull/76
